US04709053
4-(2,3-dichlorophenyl)-3-cyanopyrrole
20.0 g of 2,3-dichlorophenacylamine hydrochloride and 10.0 g of 3-dimethylaminoacrylonitrile are heated for 1 hour under reflux in 300 ml of ethanol. Then an ethanolic solution of sodium ethylate, prepared from 2.1 g of sodium and 30 ml of ethanol, is rapidly added dropwise and the reaction mixture is stirred for another 10 minutes under reflux. The reaction mixture is cooled to room temperature and then poured into ice/hydrochloric acid and the resultant mixture is stirred for 11/2 hours. The precipitate is isolated by filtration, washed with water and dried, affording 15.4 g (78% of theory) of title compound with a melting point of 152°-154° C.

reactant | 2,3-dichlorophenacylamine hydrochloride | 20.0 g | Cl.ClC1=C(C(CN)=O)C=CC=C1Cl
reactant | 3-dimethylaminoacrylonitrile | 10.0 g | CN(C=CC#N)C | C5H8N2
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 2.1 g | [Na] | Na
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(2,3-dichlorophenyl)-3-cyanopyrrole | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C#N | C11H6Cl2N2
